US03960843
Triphenylmethyl 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate
To 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylic acid (3.43 g., 9.5 m. moles) in dichloromethane (50 ml) was added triphenylmethylamine (4.3 g., 16.6 m. moles), isobutyl nitrite (3.43 g., 33.2 m. moles) and anhydrous sodium sulphate (5 g) and the mixture heated 2 hours at 35°. The cooled solution was washed with 5% sodium bicarbontate (30 ml) and water (30 ml). The organic solution was evaporated to a solid, the solid slurried in toluene (40 ml) cooled, filtered and slurry-washed with cold toluene (15 ml) to yield the previously unreported title compound (2.88 g. 50.0% yield based on the input acid) m.pt. 182°, pure by t.l.c. The compound possessed ν max (1% CHBr3 solution) 3380 (NHCO), 1775 (β-lactam), 1723 (αβ-unsaturated ester) 1686 - 1518 Cm-1 (amide carbonyl); τ (11% CDCl3 solution) 2.2 - 3.2 (complex, phenyl rings + phenoxy ring + --NH), 5.41 (singlet, phenoxy methylene acetamido group, H2), 4.09 (doublet of doublets J 4.5, 9 Hz, C-7, H) 4.95 (doublet, J 4.5 Hz, H), 6.51 + 6.97 (two doublets [branches of a quartet]J 18 Hz, H2), 8.08 (singlet, C-3, H3). Found C, 70.63; H, 5.16 N, 4.52. C35H30N2O5S requires C, 71.18; H, 5.09; N, 4.75%.

reactant | 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylic acid | 3.43 g | CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C16H16N2O5S
reactant | triphenylmethylamine | 4.3 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C19H17N
reactant | isobutyl nitrite | 3.43 g | N(=O)OCC(C)C | C4H9NO2
reactant | sodium sulphate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Triphenylmethyl 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate | 50.0% yield | CC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C35H30N2O5S
